US05654472
A 200 ml reaction vessel was charged with 3 g of 2-(2,4-difluorophenyl)-1,3-dipropionyloxy-2-propanol, 200 mg of Lipase D made by Amano Pharmaceutical Co., Ltd. (derived from Rhizpus delemer, Enzyme No. 6), 100 ml of 50 mM acetate buffer (pH 5) and 10 ml of cyclohexane. The resulting mixture was stirred at 30° C. to react for 18 hours. After the reaction liquid was extracted three times with 50 ml of ethylacetate, the organic layers were combined and the combined organic layer was washed with saturated aqueous solution with sodium bicarbonate and with saturated aqueous solution with sodium chloride and dried over anhydrous sodium sulfate. The solvent was removed trader reduced pressure and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1) to give 1.55 g of oily (R)-2-(2,4-difluorophenyl)-3-propionyloxy-1,2-propanediol. An optical purity thereof was determined in the same manner as in Example 35. (Elution time: 16.7 minutes ((R)-form) and 13.5 minutes ((S)-form)).

reactant | 2-(2,4-difluorophenyl)-1,3-dipropionyloxy-2-propanol | 3 g | FC1=C(C=CC(=C1)F)C(COC(CC)=O)(COC(CC)=O)O | C15H18F2O5
reactant | acetate | 50 mM, 100 ml, pH 5 | C(C)(=O)[O-]
solvent | cyclohexane | 10 ml | C1CCCCC1 | C6H12
product | (R)-2-(2,4-difluorophenyl)-3-propionyloxy-1,2-propanediol | 1.55 g | FC1=C(C=CC(=C1)F)[C@@](CO)(COC(CC)=O)O | C12H14F2O4
